US06673795B2
In analogy to the procedure described in example 20b, 4,6-dichloro-2-(cyclopropyl-methyl-amino)-pyrimidine-5-carbonitrile was treated with 1-phenyl-piperazine in the presence of N-ethyl-diisopropylamine in dioxane at room temperature during 18 hours to yield 4-chloro-2-(cyclopropylmethyl-amino)-6-(4-phenyl-piperazin-1-yl)-pyrimidine-5-carbonitrile as an amorphous, white solid; MS: [M+H]+=369.

reactant | 4,6-dichloro-2-(cyclopropyl-methyl-amino)-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)Cl)N(C)C1CC1 | C9H8Cl2N4
reactant | 1-phenyl-piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-chloro-2-(cyclopropylmethyl-amino)-6-(4-phenyl-piperazin-1-yl)-pyrimidine-5-carbonitrile | ClC1=NC(=NC(=C1C#N)N1CCN(CC1)C1=CC=CC=C1)NCC1CC1 | C19H21ClN6
